US07087790B2
EC (1 g) and EGCG (1 g) were dissolved in a mixture of acetone-pH 5.0 phosphate citrate buffer (1:10, v/v, 50 mL), which contained 4 mg horseradish peroxidase. While being stirred, 2.0 ml of 3.13% H2O2 was added four times during 45 minutes. The reaction mixture was extracted by ethyl acetate (50 ml×3). After concentration, the residue was subjected to Sephadex LH 20 column eluted with acetone-water solvent system (45%). 220 mg theaflavin 3-gallate was obtained.

reactant | EGCG | 1 g | C1[C@H]([C@H](OC2=CC(=CC(=C21)O)O)C3=CC(=C(C(=C3)O)O)O)OC(=O)C4=CC(=C(C(=C4)O)O)O | C22H18O11
reactant | H2O2 | 2.0 ml | OO | H2O2
solvent | acetone | 50 mL, pH 5.0 | CC(=O)C | C3H6O
product | theaflavin 3-gallate | 220 mg | C1[C@H]([C@H](OC2=CC(=CC(=C21)O)O)C3=CC(=O)C(=C4C(=C3)C(=CC(=C4O)O)[C@H]5[C@H](CC6=C(C=C(C=C6O5)O)O)OC(=O)C7=CC(=C(C(=C7)O)O)O)O)O | C36H28O16
